US05340701
39.4 g (0.35 mol) of uracil are dissolved in 200 ml of acetic acid, and the mixture is warmed to 70° C. The mixture is added dropwise over the course of 2 hours to a solution of 20 ml (0.38 mol) of bromine dissolved in 200 ml of acetic acid. The orange suspension is held at 70° C. overnight and then cooled to 0°-5° C. The precipitate obtained is filtered off, washed with 200 ml of cold water and dried, giving 60.2 g of 5-bromouracil (89.7% of theory).

reactant | uracil | 0.35 mol, 39.4 g | N1C(=O)NC(=O)C=C1 | C4H4N2O2
reactant | bromine | 0.38 mol, 20 ml | BrBr | Br2
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 5-bromouracil | 60.2 g, 89.7% | BrC=1C(NC(NC1)=O)=O | C4H3BrN2O2
